US08314097B2
(1-Trityl-1H-imidazol-4-yl)acetic acid (65 g, 0.17 mol) is suspended in THF (400 mL) and cooled to 0° C. To this is added BH3.THF solution (350 mL, 1.0 M). The clear solution obtained is stirred at 0° C. for 30 min before warming to room temperature until LCMS indicated completion of the reaction. The solution is cooled again to 0° C. and quenched carefully with water (250 mL). The resulting solution is diluted with EtOAc (300 mL) and transferred to a separatory funnel and the aqueous layer is extracted with EtOAc. The organic phase is dried over anhydrous Na2SO4 and evaporated to give a sticky residue which is taken up in ethanolamine (800 mL) and heated to 90° C. for 2 h. The reaction is transferred to a separatory funnel, diluted with EtOAc (1 L) and washed with water (3×600 mL). The organic phase is dried over anhydrous Na2SO4 and evaporated to give 2-(1-trityl-1H-imidazol-4-yl)-ethanol as a white solid that is used as is without further purification. MS (ESI) m/z 354.8 (M+H) (prepared by alternate method in J. Med. Chem. 1996, 39(19), 3806)

reactant | (1-Trityl-1H-imidazol-4-yl)acetic acid | 0.17 mol, 65 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC(=O)O | C24H20N2O2
reactant | BH3.THF | 1.0 M, 350 mL | B.C1CCOC1
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | ethanolamine | 800 mL | C(O)CN | C2H7NO
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | 2-(1-trityl-1H-imidazol-4-yl)-ethanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCO | C24H22N2O
